US08957203B2
A solution of 3-(3-fluoro-4-methoxyphenyl)-6-methoxyisoquinolin-1-ol (1.2 g, 4.01 mmol) in POCl3 (5.61 ml, 60.1 mmol) was refluxed for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM and the pH was adjusted to 7 with 4N NaOH. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum to give 1-chloro-3-(3-fluoro-4-methoxyphenyl)-6-methoxyisoquinoline (933 mg, 95% yield). δ ppm 1H NMR (400 MHz, CHLOROFORM-d) δ 8.21 (d, J=9.3 Hz, 1H), 7.90-7.87 (m, 1H), 7.86 (s, 1H), 7.81 (s, 1H), 7.27-7.23 (m, 1H), 7.12 (d, J=2.3 Hz, 1H), 7.10-7.04 (m, 1H), 3.98 (d, J=6.0 Hz, 6H); MS: MS m/z 318.1 (M++1).

reactant | 3-(3-fluoro-4-methoxyphenyl)-6-methoxyisoquinolin-1-ol | 4.01 mmol, 1.2 g | FC=1C=C(C=CC1OC)C=1N=C(C2=CC=C(C=C2C1)OC)O | C17H14FNO3
reactant | POCl3 | 60.1 mmol, 5.61 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-3-(3-fluoro-4-methoxyphenyl)-6-methoxyisoquinoline | 933 mg, 95% yield | ClC1=NC(=CC2=CC(=CC=C12)OC)C1=CC(=C(C=C1)OC)F | C17H13ClFNO2
